data/oMe_Silver.jsonl
{"reaction_id": "NG-007_1-c1ccc(OC)cc1_2-c1ccc(F)cc1_3-c1ccc(C)cc1","name": "Appel reaction","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(C)cc1)O"],"products_smiles": ["C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(C)cc1)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(C)cc1).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(C)cc1))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccc(F)cc1)(c1ccc(C)cc1)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
{"reaction_id": "NR-145_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Michaelis-Arbuzov Reaction","level": "medium","reactants_smiles": ["[CH](Br)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","P(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["P(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F).[Br-]","rationale": "The lone pair on phosphorus attacks the electrophilic carbon bearing bromine, favored by the polarizable P center and the good leaving group ability of bromide, forming a phosphonium salt intermediate."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "P(=O)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(OCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)[CH](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","rationale": "Intramolecular rearrangement occurs as an alkyl group migrates from oxygen to phosphorus, driven by the thermodynamically favorable formation of the strong P=O bond and facilitated by bromide acting as a leaving group."}],"description": "In the Michaelis–Arbuzov reaction, trialkyl phosphite attacks an alkyl halide via nucleophilic substitution, forming a phosphonium salt. This intermediate undergoes rearrangement with halide displacement to yield the phosphonate ester, driven by strong P=O bond formation and good leaving group ability of halide."}
